US05856503
3.0 g of 3-(4-bromo-phenyl)-6-methoxy-benzofuran are treated at 0° C. with 100 ml of 1M boron tribromide solution in methylene chloride. The ice bath is removed and the reaction mixture is stirred, subsequently poured into saturated sodium carbonate solution and extracted with methylene chloride. The organic phases are washed with saturated sodium chloride solution, dried and evaporated. There are obtained 2.9 g of 3-(4-bromo-phenyl)-benzofuran-6-ol, MS: m/e 288 (M+, 1 Br).

reactant | 3-(4-bromo-phenyl)-6-methoxy-benzofuran | 3.0 g | BrC1=CC=C(C=C1)C1=COC2=C1C=CC(=C2)OC | C15H11BrO2
reactant | boron tribromide | 1M, 100 ml | B(Br)(Br)Br | BBr3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-(4-bromo-phenyl)-benzofuran-6-ol | 2.9 g | BrC1=CC=C(C=C1)C1=COC2=C1C=CC(=C2)O | C14H9BrO2
